US08476264B2
To a solution of rac-((3aR,6aR)-6a-(benzyloxymethyl)-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazol-3-yl)methanol (1.52 g, 5.11 mmol) in dichloromethane (23 ml) was added dropwise at −70° C. boron trichloride (1 M in dichloromethane) (15.3 ml, 15.3 mmol). The reaction mixture was stirred at −70° C. for 1 hour, then allowed to warm to 0° C. within another hour. The reaction mixture was quenched with methanol (10 ml) at −70° C., stirred for 30 minutes at room temperature and evaporated to dryness. The residue was purified by chromatography with a 9:1-mixture of dichloromethane and methanol to give rac-((3aR,6aR)-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazole-3,6a-diyl)dimethanol (880 mg, 83% yield) as a light brown solid. MS: m/z=208.1 [M+H]+.

reactant | rac-((3aR,6aR)-6a-(benzyloxymethyl)-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazol-3-yl)methanol | 5.11 mmol, 1.52 g | C(C1=CC=CC=C1)OC[C@@]12[C@@H](C(=NO1)CO)CC(C2)(F)F | C15H17F2NO3
reactant | boron trichloride | 15.3 mmol, 1 M, 15.3 ml | B(Cl)(Cl)Cl | BCl3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | rac-((3aR,6aR)-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazole-3,6a-diyl)dimethanol | 880 mg, 83% yield | FC1(C[C@@]2([C@@H](C(=NO2)CO)C1)CO)F | C8H11F2NO3
